US20010025047A1
To 20 ml of a 2 molar solution of methylamine in tetrahydrofuran chilled in an ice bath was added a solution of 5.16 g of 4-(4-chlorophenyloxy)benzene-sulfonyl chloride in 50 ml of tetrahydrofuran and 20 ml of CH2Cl2. The mixture was refluxed for 2 hours and the solvent removed under vacuum and the residue partitioned between CH2Cl2.H2O (1:1). The CH2Cl2 layer was separated and washed with 2 N citric acid, brine and dried (Na2SO4). The solution was filtered through a thin pad of hydrous magnesium silicate and the filter pad washed with CH2Cl2. The filtrate was concentrated to give 4.5 g of N-methyl-4-(4-chlorophenoxy)benzene-sulfonamide as a yellow solid, m.p. 80-83° C.

reactant | methylamine | CN | CH5N
reactant | 4-(4-chlorophenyloxy)benzene-sulfonyl chloride | 5.16 g | ClC1=CC=C(C=C1)OC1=CC=C(C=C1)S(=O)(=O)Cl | C12H8Cl2O3S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | N-methyl-4-(4-chlorophenoxy)benzene-sulfonamide | 4.5 g | CNS(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C13H12ClNO3S
